US08217064B2
2-(3-Fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid Ethyl Ester
2-(3-Fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid (29.0 g, 0.12 mmol) was dissolved in EtOH (100 mL) and H2SO4 (96%, 5 mL) was added. The reaction mixture was refluxed for 3 h and the solvent evaporated. Water (100 mL) was added and the reaction mixture was extracted with EtOAc (3×100 mL). The combined organic phases were washed with saturated NaHCO3 solution (50 mL), water (100 mL) and brine (100 mL), and then dried over MgSO4. Evaporation of the solvent under reduced pressure gave a brown oil (31.0 g, 97%), which was used for the next step without purification. 1H NMR (300 MHz, CDCl3/TMS): δ 8.03 (t, J=8.4 Hz, 1H), 7.33-7.26 (m, 2H), 4.17-4.11 (m, 2H), 3.73 (t, J=7.6 Hz, 1H), 2.10-1.94 (m, 1H), 1.71-1.62 (m, 1H), 1.51-1.42 (m, 1H), 1.25 (t, J=7.0 Hz, 3H), 0.95-0.92 (m, 6H); 13C NMR (75 MHz, CDCl3/TMS): δ 172.2, 155.3 (d, 1JCF=265.0 Hz), 148.3 (d, 3JCF=8.4 Hz), 136.5, 126.1, 124.1 (d, 3JCF=3.6 Hz), 117.8 (d, 2JCF=21.6 Hz), 61.3, 49.4, 42.3, 25.9, 22.5, 22.1, 14.1.

reactant | 2-(3-Fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid | 0.12 mmol, 29.0 g | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)CC(C)C | C12H14FNO4
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 100 mL | CCO | C2H6O
product | 2-(3-Fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid Ethyl Ester | 31.0 g, 97% | C(C)OC(C(CC(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C14H18FNO4
